US08258130B2
A solution of 2-bromo-4-trifluoromethoxy-phenylamine (7.6 g, 29.7 mmol) in DCM (60 mL) is treated with TFAA (5 mL, 35.6 mmol) and pyridine (2.87 mL, 35.6 mmol), and stirred at rt overnight. The mixture is diluted with H2O (150 mL), and extracted with DCM (3×150 mL). The combined organic layer is dried (Na2SO4), filtered and concentrated in vacuo. The residue is diluted with MeCN (60 mL), treated with trans-crotyl bromide (4.6 mL, 44.5 mmol) and K2CO3 (8.1 g, 59 mmol), heated at reflux for 1 h, and then stirred at rt for 2 h. The mixture is filtered through a pad of Celite and the filtrate is concentrated. The residue is purified by silica gel chromatography eluting with 0%-15% EtOAc in heptane to afford N-(2-bromo-4-trifluoromethoxy-phenyl)-N-but-2-enyl-2,2,2-trifluoro-acetamide (10.5 g, 87%). MS: 406 (M+); 1H NMR (300 MHz, CDCl3): δ 7.56 (s, 1H), 7.22 (m, 2H), 5.52 (m, 2H), 4.86 (m, 1H), 3.57 (m, 1H), 1.65 (d, 3H).

reactant | 2-bromo-4-trifluoromethoxy-phenylamine | 29.7 mmol, 7.6 g | BrC1=C(C=CC(=C1)OC(F)(F)F)N | C7H5BrF3NO
reactant | TFAA | 35.6 mmol, 5 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
reactant | pyridine | 35.6 mmol, 2.87 mL | N1=CC=CC=C1 | C5H5N
reactant | trans-crotyl bromide | 44.5 mmol, 4.6 mL | C(\C=C\C)Br | C4H7Br
reactant | K2CO3 | 59 mmol, 8.1 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 150 mL | O | H2O
product | N-(2-bromo-4-trifluoromethoxy-phenyl)-N-but-2-enyl-2,2,2-trifluoro-acetamide | 10.5 g, 87% | BrC1=C(C=CC(=C1)OC(F)(F)F)N(C(C(F)(F)F)=O)CC=CC | C13H10BrF6NO2
